US05321026
A solution of N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (1.1 g), and methyl iodide (0.75 cc) in acetone (40 cc) is stirred for 2 days at a temperature in the region of 20° C. The pale yellow solution thereby obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and the light cream-colored meringue-like residue is suspended with stirring for 30 minutes in diethyl ether (50 cc), drained, washed with diethyl ether (3×10 cc) and dried at 40° C. under reduced pressure (5 mm Hg; 0.7 kPa). 1-Methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium iodide, L series (1.2 g), is thereby obtained in the form of a light beige solid, m.p. 155°-160° C.

reactant | N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H29N3OS
reactant | methyl iodide | 0.75 cc | CI | CH3I
solvent | acetone | 40 cc | CC(=O)C | C3H6O
product | 1-Methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium iodide | [I-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O | InChI=1S/C24H31N3OS.HI/c1-4-13-25-24(28)19-11-12-23-21(16-19)26(20-9-5-6-10-22(20)29-23)18(2)17-27(3)14-7-8-15-27;/h5-6,9-12,16,18H,4,7-8,13-15,17H2,1-3H3;1H
